US07166744B2
To a solution of 2-benzyloxycarbonylamino-5-butyryloxyphenylbutanoate (KCBG04) KCBG04 (0.05 g, 0.12 mmol) in MeOH (5 mL) was added Pd/C (10%, 4 mg) at room temperature. After stirring for 20 min under H2, the reaction mixture was filtered and evaporated in vacuo to give 2-amino-5-butyryloxyphenyl butanoate (KCBG06, 0.031 g, 96%) as a white solid.

reactant | 2-benzyloxycarbonylamino-5-butyryloxyphenylbutanoate | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)OC(CCC)=O)C(C(=O)[O-])CC
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 4 mg | [Pd] | Pd
product | 2-amino-5-butyryloxyphenyl butanoate | 0.031 g, 96% | C(CCC)(=O)OC1=C(C=CC(=C1)OC(CCC)=O)N | C14H19NO4
